US07161041B2
The reaction in Comparative Example 1 was carried out 3 times, the product was distilled to recover cyclopentanone and water, then 0.0206 mol oxalic acid was added to 1.11 mol 2-(1-hydroxy-n-pentyl)cyclopentanone and 0.012 mol 2-pentylidene cyclopentanone from the product, and the mixture was reacted at 120° C. Thereafter, the reaction was carried out in the same manner as in Example 7, to give methyl 3-oxo-2-pentylcyclopentylacetate. As a result, the yield in the whole process was 28%.

reactant | oxalic acid | 0.0206 mol | C(C(=O)O)(=O)O | C2H2O4
reactant | 2-(1-hydroxy-n-pentyl)cyclopentanone | 1.11 mol | OC(CCCC)C1C(CCC1)=O | C10H18O2
reactant | 2-pentylidene cyclopentanone | 0.012 mol | C(CCCC)=C1C(CCC1)=O | C10H16O
product | methyl 3-oxo-2-pentylcyclopentylacetate | O=C1C(C(CC1)CC(=O)OC)CCCCC | C13H22O3
